US06992087B2
(1R,2S)-1-[(6-cyclopropyl-3-ethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol
Following the procedure for the preparation of (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 3-chloro-5-cyclopropyl-2-ethylpyrazine and making non-critical variations provided the title compound as a solid: 1H NMR (CDCl3) δ 0.92-0.95, 1.31-1.35, 1.93, 2.59-2.70, 3.03-3.10, 3.22-3.30, 4.74, 4.91, 5.49-5.52, 7.28-7.32, 7.82; MS (ESI+) for C18H21N3O m/z 296 (M+H)+.

reactant | (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C17H21N3O
reactant | 3-chloro-5-cyclopropyl-2-ethylpyrazine | ClC=1C(=NC=C(N1)C1CC1)CC | C9H11ClN2
product | (1R,2S)-1-[(6-cyclopropyl-3-ethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C1(CC1)C1=CN=C(C(=N1)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C18H21N3O
